US07612114B2
4-(1-Methylpiperidin-4-yloxy)benzaldehyde
Synthesized from 4-hydroxy-1-methylpiperidine and 4-fluorobenzonitrile according to an analogous synthetic method to Preparation Example 15, 4-(1-methylpiperidin-4-yloxy)benzonitrile (500 mg) was used according to an analogous synthetic method to Preparation Example 16 to provide the title compound (350 mg).

reactant | 4-hydroxy-1-methylpiperidine | OC1CCN(CC1)C | C6H13NO
reactant | 4-fluorobenzonitrile | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | 4-(1-methylpiperidin-4-yloxy)benzonitrile | 500 mg | CN1CCC(CC1)OC1=CC=C(C#N)C=C1 | C13H16N2O
product | 4-(1-Methylpiperidin-4-yloxy)benzaldehyde | 350 mg | CN1CCC(CC1)OC1=CC=C(C=O)C=C1 | C13H17NO2
